US04358611
A mixture of 144.9 g of 3-chloro-4-fluoroaniline and 705 ml of concentrated hydrochloric acid was stirred and heated to 80° C. The mixture containing the aniline hydrochloride was allowed to cool to ambient temperature. After 24 hours, the mixture was stirred and cooled to 5°-10° C. while a solution of 69.5 g of sodium nitrite in 350 ml of water was added dropwise within 1/2 hour. After an additional 1/2 hour, the solution containing the diazonium salt was gradually added with stirring to a solution of 427 g of stannous chloride (2H2O) in 700 ml of hydrochloric acid. After 45 minutes at ambient temperature, the reaction mixture was made alkaline by the addition of 3000 ml of 50% sodium hydroxide and extracted with ether. The combined ether extracts were dried (MgSO4), filtered and concentrated to give 214.1 g (67%) of 3-chloro-4-fluorophenylhydrazine as a tan solid; melting point 75°-77° C.

reactant | 3-chloro-4-fluoroaniline | 144.9 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | aniline hydrochloride | Cl.NC1=CC=CC=C1
reactant | sodium nitrite | 69.5 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 3000 ml | [OH-].[Na+]
solvent | water | 350 ml | O | H2O
solvent | hydrochloric acid | 700 ml | Cl | ClH
solvent | hydrochloric acid | 705 ml | Cl | ClH
product | 3-chloro-4-fluorophenylhydrazine | 214.1 g, 67% | ClC=1C=C(C=CC1F)NN | C6H6ClFN2
